US09193693B2
Step 2. 2-(4-Fluorophenyl)-3-(3-(methoxymethyl)piperidin-1-yl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 2-(4-fluorophenyl)-3-(3-(methoxymethyl)piperidin-1-yl)quinoxaline-6-carboxylate (152.3 mg, 0.37 mmol, 1.00 equiv) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (44.7 mg, 1.12 mmol, 3.00 equiv) in water (1.5 mL) dropwise with stirring. The resulting solution was stirred for 4 h at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with water. The pH value of the aqueous solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting solids were collected by filtration and the crude product (240 mg) was purified by Prep-HPLC under the following conditions (AGILENT Pre-HPLC (UV-Directed)): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (45% CH3CN up to 60% in 8 min, hold 60% in 5 min, up to 100% in 0.1 min, hold 100% in 1.4 min); Detector, uv 220&254 nm. This resulted in 89 mg (61%) of 2-(4-fluorophenyl)-3-(3-(methoxymethyl)piperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-(4-fluorophenyl)-3-(3-(methoxymethyl)piperidin-1-yl)quinoxaline-6-carboxylate | 0.37 mmol, 152.3 mg, 1.00 equiv | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CC(CCC1)COC)C(=O)OC | C23H24FN3O3
reactant | sodium hydroxide | 1.12 mmol, 44.7 mg, 3.00 equiv | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 2-(4-Fluorophenyl)-3-(3-(methoxymethyl)piperidin-1-yl)quinoxaline-6-carboxylic acid | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CC(CCC1)COC)C(=O)O | C22H22FN3O3
